Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dark emesis and diarrhea
 
Major Surgical or Invasive Procedure:
upper endoscopy ___

 
History of Present Illness:
___ with CAD s/p CABG x 5 who was referred in for possible 
aortic dissection noted on CT.  ___ originally presented to 
OSH with c/o anemia, melena and dark emesis which started on the 
morning of presentation after he had a possible syncopal 
episode; ___ was sitting on couch watching TV and later 
awoke with an abrasion of his scalp and broken glasses.  On 
arrival to the hospital, he endorsed recent n/v/d as well, and 
denied CP, back pain, and abdominal pain.  He reported feeling 
dehydrated. 

Labs at the OSH were notable for cr 1.4 and lactate 6. Abdominal 
CT revealed a 3.5 cm fusiform aneurysm infrarenal, ?calcified 
mural thrombus, and a hypodensity c/f dissection.

In the ED, initial vitals were:  98.3 108 131/77 20 97RA.
Exam was notable for a lack of ___ tenderness and melena on 
rectal exam.

Initial labs notable for Chemistries 143/4.7, 109/21, 45/1.2, 
120.  Trop<0.01. H/H 7.7/25.5. WBC 19.2 INR 1.3. Lactate 3.1.  
Trace protein, glucose, ketones, bacteria in UA.  ___ was 
started on IV pantoprazole, given 1L IVF, and 2u pRBC.  Repeat 
labs revealed H/H 6.3/20.6, WBC 15.5, and, just prior to 
transfer, a lactate of 1.7.

Imaging notable for CTA abdomen/pelvis with aneurysmal 
dilatation of the infrarenal aorta measuring 3.6 x 3.5 cm.

___ was seen by vascular surgery who reviewed the CTA with 
radiology.  No dissection.  They did recommend continued 
outpatient ___. 

___ was also seen by GI and given c/f UGIB, was evaluated 
with an EGD which showed a large ___ pyloric ulcer with 
significant stenosis of the channel that prevented distal 
evaluation (scope could not be passed beyond this point).  There 
was no active bleeding visualized, although ___ 
bleeding could not be ruled out.  Biopsy was deferred in the 
setting of possible ongoing bleed. 

Decision was made to admit for IV PPI, serial H/H checks, 
monitoring, and possible repeat EGD with pediatric scope 
tomorrow.

Vitals prior to transfer were 94 116/62 23 98% RA. 
 
On the floor,  ___ reports feeling well.  ___ reports 
that yesterday morning, he started experiencing vomiting and 
diarrhea.  Both were black and liquid in consistency. Felt 
dehydrated afterwards given anything he ate or drank "passed 
right through him" in 15 minutes.  No sick contacts.  No recent 
NSAID use.  No significant coffee or heartburn symptoms 
recently.  No prior episodes or h/o GIB.  ___ reports that 
he is headed back to ___ on ___.  No 
recent f/c/n/v/d.  No vision change.  

Review of systems:  
As per HPI, otherwise negative
 
Past Medical History:
CAD
inguinal hernias
CABG x5 in ___
appendectomy in ___
 
 
Social History:
___
Family History:
No family hx of cancer.  Father lived into ___, died from ___.  
Mother had ___ and died from end stage dementia.

 
Physical Exam:
ADMISSION EXAM:
VS:  98.2 133/73 99 18 98RA 78.1kg
Gen:  well appearing Caucasian man, in NAD
HEENT:  L anterior scalp with abrasion, L mild periorbital 
edema, no obvious lacerations; PERRL, EOMI
CV:  tachycardic, regular rhythm, no m/g/r appreciated
Pulm:  CTAB
Abd:  benign
Ext:  WWP, 2+ pulses
Skin:  scalp findings as above
Neuro:  AOx3, ___ intact, strength 5+ throughout
Psych:   appropriate
 
DISCHARGE EXAM
VS:  98.9 ___ 20 97RA
Admission Wt: 78.1kg
Gen:  well appearing Caucasian man, in NAD
HEENT:  L anterior scalp with abrasion, L mild periorbital 
edema, no obvious lacerations; PERRL, EOMI; full ROM of head 
rotation to left; 20deg ROM to left; can flex neck without 
significant issue, neck extension mildly limited; reproducible 
tenderness with palpation of lateral base of R neck
CV:  RRR, no m/g/r appreciated
Pulm:  CTAB
Abd:  benign
Ext:  WWP, 2+ pulses
Skin:  scalp findings as above
Neuro:  AOx3, ___ intact, strength 5+ throughout
Psych:   appropriate
 
Pertinent Results:
ADMISSION LABS
==============
___ 02:39AM BLOOD ___ 
___ Plt ___
___ 02:39AM BLOOD ___ 
___ Im ___ 
___
___ 02:39AM BLOOD ___ ___
___ 02:39AM BLOOD ___ 
___
___ 02:39AM BLOOD ___
___ 02:39AM BLOOD cTropnT-<0.01
___ 02:44AM BLOOD ___
___ 05:45AM BLOOD ___
___ 04:18PM BLOOD ___

IMAGING/STUDIES
===============
___ Imaging CTA ABD & PELVIS     ___. 
Approved       
VASCULAR: 
There is aneurysmal dilatation of the infrarenal aorta measuring 
up to 3.6 x 3.5 cm.   There is severe calcium burden in the 
abdominal aorta and great abdominal arteries.  There is no 
evidence of dissection. 
  
LOWER CHEST: Minimal atelectasis is noted in the lung bases. 
There is no 
pleural or pericardial effusion. 
  
ABDOMEN:   
HEPATOBILIARY: Sub cm hypodensity of the liver are consistent 
with simple 
hepatic cysts.  ___ of the liver is consistent with 
fatty 
infiltration.  There is no evidence of intrahepatic or 
extrahepatic biliary dilatation.  The gallbladder is within 
normal limits, without stones or gallbladder wall thickening. 
  
PANCREAS: The pancreas has normal attenuation throughout.  The 
1.7 x 1.3 cm cystic lesion arising from the tail of the pancreas 
(series 4A, image 46) likely represents a ___ IPMN.  
There is no peripancreatic stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram. There is no evidence of stones, focal renal 
lesions, or hydronephrosis. There are no urothelial lesions in 
the kidneys or ureters. There is no perinephric abnormality. 
  
GASTROINTESTINAL: Small bowel loops demonstrate normal caliber, 
wall thickness and enhancement throughout.  There is extensive 
diverticulosis without evidence of diverticulitis.  Appendix is 
not visualized.  There is no evidence of mesenteric 
lymphadenopathy. 
  
RETROPERITONEUM: There is no evidence of retroperitoneal 
lymphadenopathy. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no evidence of pelvic or inguinal lymphadenopathy.  
There is no free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: Reproductive organs are within normal 
limits. 
  
BONES: There is extensive degenerative disease in the visualized 
thoracic and lumbar spine.  No evidence of infection or 
malignancy. 
  
SOFT TISSUES:  A large right inguinal hernia appears to contain 
a portion of the urinary bladder.  There is a large left fat 
containing and hernia. 
  
IMPRESSION:   
1. Aneurysmal dilatation of the infrarenal aorta measuring up to 
3.6 x 3.5 cm. Atherosclerotic disease throughout the abdomen is 
extensive. 
2. If clinically indicated a nonemergent MRCP is recommended for 
further 
evaluation of a cystic lesion in the pancreatic tail. 

___ Cardiovascular ECG 
Sinus tachycardia. No previous tracing available for comparison. 


DISCHARGE LABS
==============
___ 06:33AM BLOOD ___ 
___ Plt ___
___ 06:33AM BLOOD Plt ___
___ 06:33AM BLOOD ___ 
___
___ 06:33AM BLOOD ___
___ 06:33AM BLOOD ___
___ 06:33AM BLOOD ___
___ 06:52PM BLOOD ___
___ 06:52PM BLOOD ___
___ 06:52PM BLOOD ___
___ 06:52PM BLOOD ___
___ 06:52PM BLOOD HCV ___
___ 04:18PM BLOOD ___ here with melena and dark emesis c/f UGIB, found to have 
___ ulcer on EGD, unclear etiology, s/p 2u pRBC in ED 
prior to transfer up to medicine floor.

#GIB: Reported black emesis/diarrhea, c/f UGIB.  Unclear risk 
factors.  ___ ulcer seen on EGD  performed in ED which 
could be related to NSAIDs, H. pylori, stress, or malignancy; 
biopsy was deferred in the setting of possible ongoing bleed. 
Started on IV pantoprazole BID in the ED. H/H remained stable 
s/p 2u pRBC transfusion in ED. Stool ___ for h. pylori, 
pending at d/c. ___ educated on avoiding NSAIDs.  Scheduled 
apt with Dr. ___ for ___ Dr. ___ to 
schedule repeat endoscopy as necessary ___ GI team 
recommended reassessment in ___ weeks). 

#transaminitis:  Likely in setting of severe dehydration and/or 
acute severe anemia.  GI recommended basic cirrhosis eval with 
labs as below.  Workup negative; see specific results on results 
page.

# AAA: Noted initially on OSH CT scan.   No e/o dissection per 
vascular surgery/radiology on assessment here.  Scheduled here 
for continued outpatient f/u per vascular in ___ location 
___ am (Dr. ___.  However, ___ primary 
residence and PCP in ___, ___.  PCP ___ see ___ and 
should arrange follow up.

# CAD: Initially held home metop and ramipril in setting of 
acute bleed.  Metop resumed at discharge given stable pressures. 
 Ramipril continued to be held.  ASA and pravastatin continud 
during hospitalization.

TRANSITIONAL ISSUES
- Outside hospital scans showed aneurysmal dilatation of the 
infrarenal aorta measuring 3.6 x 3.5 cm; ___ was seen by 
vascular who ruled out acute dissection and recommended 
continued followup as an outpatient. Recommend repeat ultrasound 
in 6 months for surveillance. 
- CTA also revealed pancreatic tail cystic lesion which should 
be evaluated with MRCP 
- ___ noted to have a transaminitis on admission (ALT 125, 
AST 91). LFTs were downtrending at discharge (ALT 71, AST 40). 
HBsAg and HBsAb were negative. HCV Ab was negative. 
Immunoglobulins were normal. Pending labs were: Iron, ferritin, 
TRF, AMA, Smooth Muscle, ___. Repeat LFTs at PCP ___ 
appointment. 
- Patent needs a repeat EGD in ___ weeks (From EGD done on 
___ to assess for gastric ulcer healing and biopsy
- New Medication: Pantoprazole 40mg PO BID x 12 weeks and then 
transition to daily unless directed otherwise by 
gastroenterologist/PCP
- ___ had borderline orthostasis and was normotensive, so 
ramipril was held on discharge. Please reassess BP at PCP 
___ and restart when appropriate. 
# CODE: FULL
# CONTACT: 
Name of health care proxy: ___ 
Phone number: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Ramipril 2.5 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Pravastatin 80 mg PO QPM 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Pravastatin 80 mg PO QPM 
3. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
4. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- upper gastrointestinal bleed, pyloric ulcer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the ___ because of vomiting and diarrhea. 
 You were evaluated with various imaging modalities and tests 
which showed that you were having a gastrointestinal bleed.  Our 
gastroenterology team performed an upper endoscopy (i.e. 
examined your throat and stomach with a scope), which showed 
that you had an ulcer in your stomach.  This was not actively 
bleeding, although it was considered a possible source for the 
recent bleeding.  You were treated with ___ 
medications to help the ulcer heal faster.

We have made appointments for you in ___ with your primary 
care doctor and gastroenterologist.  It is very important you 
follow up with them once you go home.  You will need repeat 
endoscopy of your stomach in ___ weeks to assess for resolution 
of the ulcer.  You will be on Pantoprazole, and ___ 
medication, twice a day for at least 12 weeks. 

While you were being evaluated, you were also noted to have an 
aneurysm of your aorta.  Please talk to your primary care doctor 
about getting appropriate follow up for this.  It is recommended 
that you see your primary care doctor or schedule an appointment 
with a vascular surgeon within the next 2 weeks for reimaging 
with an ultrasound in 6 months.

Finally, your liver function tests were noted to be slightly 
abnormal.  Reassuringly, your liver function tests were 
improving at the time of discharge; your primary care doctor may 
want to repeat lab tests to continue monitoring your liver.

It was a pleasure taking part in your care,

Your ___ Team
 
Followup Instructions:
___